US04997844
Using a similar procedure to that described in Ex. 22, but starting from methyl 5-(6-aminoindol-1-ylmethyl)furan-2-carboxylate and cyclopentyl chloroformate, there was obtained methyl 5-[6-(cyclopentyloxycarbonyl)aminoindol-1-ylmethyl]furan-2-carboxylate in 53% yield, as an off-white solid; partial NMR: 1.5-2.0 [br m, 8H, (CH2)4 ], 6.2 (d, 1H, CH.CH=C), 6.6 (br.s, 1H,NH).

reactant | methyl 5-(6-aminoindol-1-ylmethyl)furan-2-carboxylate | NC1=CC=C2C=CN(C2=C1)CC1=CC=C(O1)C(=O)OC | C15H14N2O3
reactant | cyclopentyl chloroformate | ClC(=O)OC1CCCC1 | C6H9ClO2
product | methyl 5-[6-(cyclopentyloxycarbonyl)aminoindol-1-ylmethyl]furan-2-carboxylate | 53% yield | C1(CCCC1)OC(=O)NC1=CC=C2C=CN(C2=C1)CC1=CC=C(O1)C(=O)OC | C21H22N2O5
